US04343811
2-Methyl-2-[1,2-dimethyl-3-(4-methyl-phenyl)-1H-indole-5-yloxy]-propanoic acid ethylester
The above compound was prepared from 1,2-dimethyl-3-(4-methyl-phenyl)-1H-indole-5-ol and 2-bromo-2-methyl-propanoic acid ethylester using a procedure analogous to that of Example 10.

reactant | 1,2-dimethyl-3-(4-methyl-phenyl)-1H-indole-5-ol | CN1C(=C(C2=CC(=CC=C12)O)C1=CC=C(C=C1)C)C | C17H17NO
reactant | 2-bromo-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
product | 2-Methyl-2-[1,2-dimethyl-3-(4-methyl-phenyl)-1H-indole-5-yloxy]-propanoic acid ethylester | C(C)OC(C(C)(OC=1C=C2C(=C(N(C2=CC1)C)C)C1=CC=C(C=C1)C)C)=O | C23H27NO3
